### PR TITLE
[Merged by Bors] - feat: the positive and negative parts of a selfadjoint element in a C⋆-algebra are unique

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [ ] depends on: #18103 
- [ ] depends on: #18116 
- [ ] depends on: #18117 
- [ ] depends on: #18118 
- [ ] depends on: #18126 
- [ ] depends on: #18128 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/PosPart.lean [hunk 1]
```diff
@@ -129,4 +127,102 @@ lemma posPart_eq_zero_iff (a : A) (ha : IsSelfAdjoint a) :
...
+/-- The positive and negative parts of a selfadjoint element `a` are unique. That is, if
+`a = b - c` is the difference of nonnegative elements whose product is zero, then these are
+precisely `a⁺` and `a⁻`. -/
+lemma posPart_negPart_unique {a b c : A} (habc : a = b - c) (hbc : b * c = 0)
+    (hb : 0 ≤ b := by cfc_tac) (hc : 0 ≤ c := by cfc_tac) :
+    b = a⁺ ∧ c = a⁻ := by
+  /- The key idea is to show that `cfcₙ f a = cfcₙ f b + cfcₙ f (-c)` for all real-valued `f`
+  continuous on the union of the spectra of `a`, `b`, and `-c`. Then apply this to `f = (·⁺)`.
+  The equality holds because both sides consitute star homomorphisms which agree on `f = id` since
+  `a = b - c`. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/PosPart.lean:147]:
```suggestion
  The equality holds because both sides constitute star homomorphisms which agree on `f = id` since
  `a = b - c`. -/
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

**Comment by j-loreaux** [comment]
bors merge
